US08440666B2
4-Bromo-2-(2-morpholino-2-oxoethyl)-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetic acid (30 mg, 0.078 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (22 mg, 0.117 mmol), 1-hydroxybenzotriazole anhydride (16 mg, 0.117 mmol) and triethylamine (16 μL, 0.117 mmol) in N,N-dimethylformamide (0.3 mL) was stirred with morpholine (10 μL, 0.117 mmol) at room temperature for 5 hours. After completion of the reaction, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium sulfate and saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform/ethyl acetate=1/1) to give the desired product (20 mg, 57% yield).

reactant | 2-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetic acid | 0.078 mmol, 30 mg | BrC1=C(C=NN(C1=O)CC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C16H22BrN3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.117 mmol, 22 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.117 mmol, 16 μL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.117 mmol, 10 μL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-2-(2-morpholino-2-oxoethyl)-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 20 mg, 57% yield | BrC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)CC(=O)N2CCOCC2)=O | C20H29BrN4O3
